US04857435
Preparation of 4-(2-methyl-2-propyl)styrene maleimide copolymer.
Thus, 4 g of maleimide, 6.6 g of 4-(2-methyl-2-propyl) styrene (obtained from Polysciences, Inc.), 42 mg of azobisisobutyronitrile and 40 mL of cyclohexanone were mixed and deoxygenated with argon. This solution was heated in a sealed tube at 60° C. for 4 hours. The resulting polymer was isolated by pouring the polymer solution into cold water, filtering, washing and drying under vacuum. The dried polymer (yield 95% of theoretical) had a melting point of greater than 300° C. The 1H NMR spectrum showed 0.7 NH groups for each aryl group. The polymer was soluble in aqueous alkaline solution of pH equal to 13 or higher. The relative viscosity, ηrel, was 1.15 (0.5 g of polymer per deciliter in DMF at 25° C.). As in Example 2 above, a chain transfer agent may be included to control molecular weight.

reactant | maleimide | 4 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | 4-(2-methyl-2-propyl) styrene | 6.6 g | CC(C)(C)C1=CC=C(C=C)C=C1 | C12H16
reactant | azobisisobutyronitrile | 42 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | cyclohexanone | 40 mL | C1(CCCCC1)=O | C6H10O
solvent | water | O | H2O
product | 4-(2-methyl-2-propyl)styrene maleimide | yield 95% | C1(C=CC(N1)=O)=O.CC(C)(C)C1=CC=C(C=C)C=C1 | InChI=1S/C12H16.C4H3NO2/c1-5-10-6-8-11(9-7-10)12(2,3)4;6-3-1-2-4(7)5-3/h5-9H,1H2,2-4H3;1-2H,(H,5,6,7)
